US08981085B2
trans-2-Phenylcyclopropanecarboxylic acid (705 mg, 4.35 mmol), bis(2-oxooxazolidin-3-yl)phosphinic chloride (1107 mg, 4.35 mmol) and triethylamine (1100 mg, 10.9 mmol) were added to 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine (500 mg, 2.17 mmol) in DCM (100 mL). The reaction was stirred at room temperature for 1 hour, and then 2N aqueous Na2CO3 was added (50 mL). The resulting suspension was filtered and the solid rinsed with DCM and water. After drying, trans-N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenylcyclopropanecarboxamide (503 mg, 61.8% yield) was obtained as a solid.

reactant | trans-2-Phenylcyclopropanecarboxylic acid | 4.35 mmol, 705 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C10H10O2
reactant | bis(2-oxooxazolidin-3-yl)phosphinic chloride | 4.35 mmol, 1107 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 10.9 mmol, 1100 mg | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-amine | 2.17 mmol, 500 mg | BrC=1C(=C2C(=NC1)NC=C2N)F | C7H5BrFN3
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | trans-N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-phenylcyclopropanecarboxamide | 503 mg, 61.8% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)F | C17H13BrFN3O
